US08084623B2
To a solution of 7-fluoro-benzothiophene (0.22 g, 1.44 mmoles) in anhydrous tetrahydrofuran (10 ml) at −78° C. was added dropwise a solution of n-BuLi in hexane (1.6M, 0.9 ml, 1.44 mmoles). The reaction mixture was stirred at −78° C. for one hour, and then a solution of 3-formyl-3-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.3 g, 1.01 mmoles) in anhydrous tetrahydrofuran (5 ml) was then added. The reaction mixture was stirred at −78° C. for 3 hours, quenched with saturated aqueous ammonium chloride, and partitioned between ethyl acetate and saturated aqueous ammonium chloride solution. The organic phase was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10 to 45% ethyl acetate in hexane) to yield 3-[(7-Fluoro-benzo[b]thiophen-2-yl)-hydroxy-methyl]-3-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a colorless semisolid (0.138 g, 30%). MS=450 [M+H]+.

reactant | 7-fluoro-benzothiophene | 1.44 mmoles, 0.22 g | FC1=CC=CC=2C=CSC21 | C8H5FS
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 1.44 mmoles, 1.6M, 0.9 ml | CCCCCC | C6H14
reactant | 3-formyl-3-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.01 mmoles, 0.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)(CC1CCOCC1)C=O | C16H27NO4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[(7-Fluoro-benzo[b]thiophen-2-yl)-hydroxy-methyl]-3-(tetrahydro-pyran-4-ylmethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.138 g, 30% | C(C)(C)(C)OC(=O)N1CC(CC1)(CC1CCOCC1)C(O)C1=CC2=C(S1)C(=CC=C2)F | C24H32FNO4S
